US04166184
A solution of 3-amino-7-benzamidoheptan-2-one hydrochloride (16.39 g, 0.0576 mol) and potassium thiocyanate (7.30 g, 0.0755 mol, excess) in water was heated under reflux for 20 hours. The aquesus phase was decanted off and the organic phase was washed with water, and recrystallised from acetonitrile to give 4-(4-benzamidobutyl)-5-methylimidazole-2-thione (4.18 g, 25%) m.p. 180°-184°.

reactant | 3-amino-7-benzamidoheptan-2-one hydrochloride | 0.0576 mol, 16.39 g | Cl.NC(C(C)=O)CCCCNC(C1=CC=CC=C1)=O
reactant | potassium thiocyanate | 0.0755 mol, 7.30 g | [S-]C#N.[K+]
solvent | water | O | H2O
product | 4-(4-benzamidobutyl)-5-methylimidazole-2-thione | 4.18 g, 25% | C(C1=CC=CC=C1)(=O)NCCCCC1=NC(N=C1C)=S | C15H17N3OS
